US07034039B2
Tert-butyl[6-(aminocarbonyl)-2-isobutyl-1-oxo-4-(2-thienyl)-1,2-dihydro-3-isoquinolinyl]methylcarbamate (0.23 g, 0.5 mmol) was dissolved in a solution of 4N hydrogen chloride in ethyl acetate (5 ml). The solution was stirred at room temperature for 1 h. The reaction was concentrated under reduced pressure, and the precipitated crystals were crystallized from methanol-diethyl ether to give 3-(aminomethyl)-2-isobutyl-1-oxo-4-(2-thienyl)-1,2-dihydro-6-isoquinolinecarboxamide hydrochloride (0.18 g, 94.7%) as crystals.

reactant | Tert-butyl[6-(aminocarbonyl)-2-isobutyl-1-oxo-4-(2-thienyl)-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 0.5 mmol, 0.23 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1C=1SC=CC1)C(=O)N)=O)CC(C)C)=O | C24H29N3O4S
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 3-(aminomethyl)-2-isobutyl-1-oxo-4-(2-thienyl)-1,2-dihydro-6-isoquinolinecarboxamide hydrochloride | 0.18 g, 94.7% | Cl.NCC=1N(C(C2=CC=C(C=C2C1C=1SC=CC1)C(=O)N)=O)CC(C)C | InChI=1S/C19H21N3O2S.ClH/c1-11(2)10-22-15(9-20)17(16-4-3-7-25-16)14-8-12(18(21)23)5-6-13(14)19(22)24;/h3-8,11H,9-10,20H2,1-2H3,(H2,21,23);1H
